reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:4]([C:5]([O:6][C:3](=[C:2]([H:8])[H:9])[H:10])([H:13])[H:14])([H:11])[H:12])[H:7],100.17932036498199
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5][O:6][H:11])([H:9])[H:10])[H:8])\[H:7],81.0015672031019
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O:3])[H:8])([N:6]=[C:5]=[C:4]([H:9])[H:10])[H:7],66.7919631761929
[N:1]([C:2]1(/[C:3]([O:4][H:10])=[N:5]/[H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([O:4][H:10])[n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])[H:9],41.15356112402419
[C:1]([C@@:2]([C:4](=[C:3]([H:11])[H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],84.74724194984292
[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[O:2]/[C:3](=[N:4]\[H:11])[N:5]([H:12])[C@:6]1([O:7][H:9])[H:13],92.06486255917721
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[O+:5][C-:6]([H:16])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:17],81.2400598769073
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4]([O:5][H:13])=[N:6]\[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],49.264566109696
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]=[C:6]([H:11])[H:14])([H:12])[H:13],41.568623307398795
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:6]([H:14])[c:5]([H:13])[c:3]([H:11])[c:4]([H:12])[c:7]1[H:15])([H:8])([H:9])[H:10],57.1262378550138
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C:3]([H:12])=[C:4]([O:5][H:11])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],78.2931743190787
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]([O:5][H:7])[H:13])([H:11])[H:12],61.3602069693275
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:6]#[C:7][H:15])[O:3][C:4]1([H:12])[H:13])([H:8])([H:9])[H:10].[O:5]([H:11])[H:14],74.7171889266674
[C:1]([C:2]([C:3]([H:13])([H:14])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]1([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([O:7][H:21])[H:19]>>[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],92.27823561579541
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[O:4][H:7])[C:5]#[C:6][H:10])[H:8])[H:9],67.1809897265625
[C:1]([C:2](/[C:3](=[C:5](\[C:6]([H:16])([H:17])[H:18])[O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.046616825506646
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O-:1][N+:2]#[C:3][C:4]([N:5]([C:6]([H:7])([H:11])[H:12])[H:10])([H:8])[H:9],67.420199308657
[O:1]([C:2]([C:3]([O:4][C:5]([C:7](=[C:6])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],14.466030410429013
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:6]/[C:5](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9],95.67013802486143
[C:1]([C@:2]1([C:4]#[C:5][H:12])[C:6]([O:3][H:11])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],56.57898268819479
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5][C:7]([H:21])([H:22])[H:23])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:17])([H:18])([H:19])[H:20]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],9.089925456540215
[C:1]([C@:2]1([O:3][H:11])[C@@:4]2([H:12])[O:5][C@:6]1([H:13])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],12.192838155479812
[C:1]([C:2](=[N+:4]([C-:5]([H:15])[H:16])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:17]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],34.49885864186998
